US07432287B2
Preparation of 3-(5-cyano-pyridin-2-yl-oxy)-5-isopropoxy-N-thiazol-2-yl-benzamide
The reaction between 3-(5-bromo-pyridin-2-yl-oxy)-5-isopropyl-N-thiazol-2-yl-benzamide and copper cyanide may be carried out by a method described in the relevant literature (for example, Comprehensive Organic Transformations, Richard L. et al., VCH Publishers, 1988), a corresponding method, or a combination thereof with an ordinary method.

reactant | 3-(5-bromo-pyridin-2-yl-oxy)-5-isopropyl-N-thiazol-2-yl-benzamide | BrC=1C=CC(=NC1)OC=1C=C(C(=O)NC=2SC=CN2)C=C(C1)C(C)C | C18H16BrN3O2S
reactant | copper cyanide | [Cu](C#N)C#N
product | 3-(5-cyano-pyridin-2-yl-oxy)-5-isopropoxy-N-thiazol-2-yl-benzamide | C(#N)C=1C=CC(=NC1)OC=1C=C(C(=O)NC=2SC=CN2)C=C(C1)OC(C)C | C19H16N4O3S
